US06462198B1
Diphenylacetyl-thiocarbamic acid S-butyl ester
The title compound, white solid, m.p.=99° C. and MS: m/e=327 (M+) was prepared in accordance with the general method of example 1 from diphenylacetyl isocyanate and butanethiol.

reactant | diphenylacetyl isocyanate | C1(=CC=CC=C1)C(C(=O)N=C=O)C1=CC=CC=C1 | C15H11NO2
reactant | butanethiol | C(CCC)S | C4H10S
product | Diphenylacetyl-thiocarbamic acid S-butyl ester | C(CCC)SC(NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C19H21NO2S
